Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
clarithromycin
 
Attending: ___
 
Chief Complaint:
chest pain
 
Major Surgical or Invasive Procedure:
coronary angiography s/p drug eluting stent to a 99% occluded 
proximal left anterior descending artery via right radial site.
 
History of Present Illness:
Mr. ___ is a ___ y/o ___-speaking man with PMH of CKD, 
hypothyroidism and obesity who presented to ___ 
after chest pain, jaw pain and bilateral arm pain while driving 
the afternoon of admission and was found to have elevated 
troponin to 0.36. He reports while he was driving he started to
have pain and tingling around his mouth @ 13:30 while driving. 
He
took Tylenol and went to work but the pain returned ~1 hour 
later accompanied by pain radiating to his back, shoulders, and 
down both his arms. He drove to the ___ ED. Pain 
lasted ~30 minutes and had resolved by the time he arrived 
there. ECG was normal, CXR normal, troponin elevated to 0.36 and 
he was transferred to ___ for further management. He reports 
having a
flu-like illness ___ weeks ago that resolved and has been 
feeling well the past few days with no fevers/chills, sore 
throat, cough, or dyspnea. In addition to driving for ___ he 
likes to run, lift weights, and teaches capoeira which he 
describes as a martial art like break dancing (Wikipedia 
definition- an ___ martial art that combines elements 
of dance, acrobatics, and
music, developed by ___ slaves in ___ at the beginning of 
the ___). He has two flights of stairs to get to his 
room and states he has had no prior dyspnea, chest pain, 
pressure, or palpitations climbing his stairs or with any of his 
physical activities.

 
Past Medical History:
hypothyroid
nephrolithiasis
Chronic kidney disease
obesity
graves disease
lower back pain
 
Social History:
___
Family History:
States he has no family history of CAD, MI, or CHF.
 
Physical Exam:
Admission:
----------
VS: ___ 0044 Temp: 98.1 PO BP: 135/81 HR: 68 RR: 18 O2 sat:
95% O2 delivery: RA 
GENERAL: Resting comfortably in bed
HEENT: Anictera sclera, MMM
NECK: Supple, no JVD
CV: RRR, S1/S2, no murmurs, gallops, or rubs
PULM: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles
GI: abdomen soft, nondistended, nontender in all quadrants
EXTREMITIES: Warm with no lower extremity edema
PULSES: 2+ radial pulses bilaterally
NEURO: Alert, moving all 4 extremities with purpose, face
symmetric

Discharge:
----------
97.6, 124/77, 57-65, 18, 97-98% ra
JVP is normal, carotids normal.
Lungs are clear to auscultation.
Cardiac exam with regular rate and rhythm without any murmur,
rub, or gallop.
Abdomen soft and benign but obese.
Extremities without edema and with intact peripheral pulses. 
Right radial access site intact, no ecchymosis or hematoma. 
Neuro alert and oriented, speech clear and fluid. Moves all 
extremities. No focal deficits. 

 
Pertinent Results:
Coronary Angiography with PCI
cath report: ___ 
Coronary Description 
 
The coronary circulation is left dominant. 
 
LM: The Left Main, arising from the left cusp, is a medium 
caliber vessel. This vessel trifurcates into the Left Anterior 
Descending, Left Circumflex, and Ramus Intermedius. 
 
LAD: The Left Anterior Descending artery, which arises from the 
LM, is a medium caliber vessel. 
There is moderate tortuosity beginning in the proximal segment. 
This vessel's TIMI flow grade is 2. 
There is a 99% stenosis in the proximal segment. The Diagonal, 
arising from the proximal segment, is a medium caliber vessel. 
 
Cx: The Circumflex artery, which arises from the LM, is a large 
caliber vessel. 
The Obtuse Marginal, arising from the proximal segment, is a 
medium caliber vessel. 
The Atrioventricular Circumflex, arising from the mid segment, 
is a medium caliber vessel. The Left Posterior Descending 
Artery, arising from the distal segment, is a medium caliber 
vessel. 
RI: The Ramus Intermedius, which arises from the LM, is a large 
caliber vessel. There is mild tortuosity beginning in the mid 
segment. 
 
RCA: The Right Coronary Artery, arising from the right cusp, is 
a small caliber vessel. 
 
Interventional Details 
Percutaneous Coronary Intervention: Percutaneous coronary 
intervention (PCI) was performed on an ad hoc basis based on the 
coronary angiographic findings from the diagnostic portion of 
this procedure. A ___ Fr. EBU 3.75 guide provided good support for 
the procedure. Heparin boluses were given prophylactically for 
an ACT >250s and the patient was pre-loaded with 600 mg of PO 
Plavix. A short Asahi Sion BLue wire crossed into the distal LAD 
with moderate dificulty. We then pre-dilated with a 3.0 mm 
balloon at 12 ATM for ___ x3. We performed IVUS for sizing and 
length and showed no significant calcification. At this point we 
delivered a 3.0*22 mm Onyx DES at 14 ATM for ___ and postdilated 
with a 3.5 mm NC balloon and performed IVUS again showing no 
evidence of dissection, no residual and good stent expasion and 
appoistion. We post-dilated further the proximal vessel with a 
4.0 mm NC balloon at 20 ATM for ___ x2. Final angiogram revealed 
no residual and TIMI 3 flow without any visible evicende of 
dissection or rupture. 
 
Complications: There were no clinically significant 
complications. 
 
Findings 
• Elevated left heart filling pressure. 
• Single vessel coronary artery disease. 
• 99% pLAD lesion with TIMI 2 flow and heavy tortuosity 
succesfully treated with 1 DES (IVUS guided). 
 
Recommendations 
• DAPT for 12 months; if patient doing well consider 30 months. 

Admission Labs
--------------
___ 08:06PM BLOOD WBC-10.1* RBC-4.98 Hgb-14.7 Hct-45.7 
MCV-92 MCH-29.5 MCHC-32.2 RDW-13.2 RDWSD-45.0 Plt ___
___ 08:06PM BLOOD Glucose-92 UreaN-22* Creat-1.4* Na-138 
K-4.2 Cl-103 HCO3-24 AnGap-11
___ 08:06PM BLOOD ALT-18 AST-26 CK(CPK)-276 AlkPhos-70 
TotBili-0.5
___ 08:06PM BLOOD CK-MB-13* MB Indx-4.7 proBNP-94
___ 08:06PM BLOOD cTropnT-0.38*
___ 08:06PM BLOOD Albumin-4.2 Calcium-9.1 Phos-2.7 Mg-2.1

Lipids
------
Cholest-189 
___ 08:06PM BLOOD Triglyc-99 HDL-36* CHOL/HD-5.3 
LDLcalc-133*

Troponins
---------
___ 08:06PM BLOOD cTropnT-0.38*
___ 06:30AM BLOOD CK-MB-13* cTropnT-0.32*

Discharge labs:
---------------
___ 05:47AM BLOOD WBC-8.8 RBC-4.85 Hgb-14.5 Hct-44.9 MCV-93 
MCH-29.9 MCHC-32.3 RDW-13.4 RDWSD-45.1 Plt ___
___ 05:47AM BLOOD Glucose-92 UreaN-21* Creat-1.3* Na-141 
K-4.3 Cl-106 HCO3-23 AnGap-12
___ 05:47AM BLOOD Phos-3.3 Mg-2.___ y/o ___-speaking man with history of hypothyroidism and
obesity who presented to ___ after chest pain, 
jaw
pain and bilateral arm pain while driving found to have NSTEMI

#NSTEMI: Elevated troponin in setting of chest, jaw, shoulder,
and arm pain lasting ~___fternoon of admission
consistent with type 1 NSTEMI. No ischemic changes on ECG.
Minimal risk factors in history- male sex, LDL 157 last checked
___ not on statin therapy. No history of diabetes, tobacco use,
or recreational drug use. No significant family history of CAD,
no prior cardiac history, and seems to have fairly active
lifestyle without any anginal symptoms. A1c 5.4. troponin peaked 
at
0.38. Now s/p coronary angioplasty on ___ with drug eluting 
stent to left anterior descending coronary artery. 
- start 81mg daily for life 
- start atorvastatin 80mg nightly
-Plavix 75mg daily for at least ___ year duration
-prescription for nitroglycerin tablets for prn chest pain 
- transthoracic echocardiogram done, post NSTEMI. Result pending 
prior to discharge  
-cleared by physical therapy to be discharged home without 
services 
- arranged cardiologist follow up
-___ rehab referral provided for after cardiology clearance

#CKD: Baseline Cr 1.4 in CHA records however patient unaware;
improved today to 1.3 at time of discharge. He received post 
catheterization 1 liter of IV fluid hydration. 

#HYPOTHYROIDISM: 
- TSH 2.6 
- Continue home levothyroxine 88mcg daily

Discharged to home on ___ with outpatient primary care and 
cardiology appointments set up. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Levothyroxine Sodium 88 mcg PO DAILY 
2. maca extract 2 tabs oral DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Atorvastatin 80 mg PO QPM  
3.  Clopidogrel 75 mg PO DAILY to prevent stent thrombosis  
4.  Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain 
Lie down before taking. Call ___. Take 1 tablet every 5 minutes 
up to 3 doses  
5.  Levothyroxine Sodium 88 mcg PO DAILY  
6.  maca extract 2 tabs oral DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
coronary artery disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were transferred from ___ after you were 
found to have had a heart attack based on blood work. You had a 
cardiac catheterization here at ___ and there was a large 
blockage in your left anterior descending coronary artery that 
was fixed with a stent.

Instructions regarding care of the access site are included with 
your discharge information.  

Please continue your current medications with the following 
changes:  
 - Start Aspirin 81mg daily, lifelong.  
 - Start clopidrogel (Plavix) 75mg daily, you should take this 
for a minimum of one year and ONLY stop when told by a 
cardiologist specifically. If you are tolerating the medication 
well after 12 months, your cardiogloist may keep you on it for 
longer but that will be determined by your cardiologist. 
-Start Atorvastatin 80 mg daily, (best absorbed when taken in 
the evening), this medication not only reduces cholesterol, but 
has been shown to help decrease risk of heart attack in the 
future for people who have coronary artery (heart) disease. 
-prescribing nitroglycerin tablets for chest pain. 
 Nitroglycerin is a medication that can be used as needed for 
chest pain. If you develop chest pain, place 1 tablet under the 
tongue and allow it to dissolve. If after 5 minutes you are 
still having chest pain, you can repeat this every 5 minutes for 
UP TO 3 doses. If chest pain persists after 3 doses, call ___. 
You should always lie down if you need to take this medication, 
because it can cause a drop in your blood pressure which can 
lead to lightheadedness or possibly cause someone to pass out if 
blood pressure drops too low. Even if your chest pain resolves, 
you should contact your cardiologist 
 
It is very important to take all of your heart healthy 
medications. In particular, Aspirin and Clopidogrel (Plavix) 
keep the stents in the vessels of the heart open and help reduce 
your risk of having a future heart attack. If you stop these 
medications or miss ___ dose, a blood clot could form in your 
heart stent which could cause a life threatening heart attack. 
Please do not stop taking either medication without taking to 
your heart doctor, even if another doctor tells you to stop the 
medications. 

You should wait until clearance from your cardiologist before 
returning to teaching your exercise/sport class 

It is strongly recommended that you attend a cardiac rehab 
program in the near future. A referral form was provided to you 
that lists the locations of these programs. Please bring this 
with you to your follow up visit with your cardiologist, and 
they will inform you when it is safe to begin a program.  

If you have any urgent questions that are related to your 
recovery from your hospitalization or are experiencing any 
symptoms that are concerning to you and you think you may need 
to return to the hospital, please call the ___ HeartLine at 
___ to speak to a cardiologist or cardiac nurse 
practitioner.  

It has been a pleasure to have participated in your care and we 
wish you the best with your health. 

Your ___ Cardiac Care Team  

 
Followup Instructions:
___